US05550122
b) 2-Chloro-5-nitronicotinic acid
A solution of 2-hydroxy-5-nitronicotinic acid (9.2 g, 0.05 mol) in phosphorus oxychloride (25 ml) was refluxed for 5 hours. The solvent was removed in vacuo and the residue dissolved in a mixture of tetrahydrofuran and ether. After cooling the solution in an ice bath, water was cautiously added dropwise with stirring until a clean separation of layers was obtained. The organic layer was washed with water and a saturated sodium chloride solution, dried (anhydrous magnesium sulfate) and concentrated. Recrystallization from ether gave 6.94 g (69% of theory) of pure product, m.p. 135° C. (dec).

reactant | 2-hydroxy-5-nitronicotinic acid | 0.05 mol, 9.2 g | OC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H4N2O5
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-nitronicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H3ClN2O4
